US04937268
[4-Amino-3,5-dichloro-α-[[[4-[2-[(2-phenylethyl)thio]ethoxy]butyl]amino]methyl]benzenemethanol
A solution of 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol (1.53 g), [2-[[2-(4-bromobutoxy)ethyl]thio]ethyl]benzene (1.0 g) and DEA (0.71 g) in DMF (20 ml) was stirred under nitrogen at 100° for 2 h. The solvent was evaporated in vacuo and the residue purified by FCC eluting with System G (95:5:1) to give an oil. The oil was partitioned between dichloromethane (50 ml) and 8% sodium bicarbonate (75 ml) and the aqueous solution re-extracted with dichloromethane (50 ml). The organic extracts were dried and evaporated in vacuo to give the title compound (924 mg,) as a white solid m.p. 74°-77°.

reactant | 4-amino-α-(aminomethyl)-3,5-dichlorobenzenemethanol | 1.53 g | NC1=C(C=C(C=C1Cl)C(O)CN)Cl | C8H10Cl2N2O
reactant | [2-[[2-(4-bromobutoxy)ethyl]thio]ethyl]benzene | 1.0 g | BrCCCCOCCSCCC1=CC=CC=C1 | C14H21BrOS
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Amino-3,5-dichloro-α-[[[4-[2-[(2-phenylethyl)thio]ethoxy]butyl]amino]methyl]benzenemethanol | 924 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCOCCSCCC1=CC=CC=C1)Cl | C22H30Cl2N2O2S
